US07875605B2
1-(4-Methoxybenzenesulfonyl)-3-(4-methylpiperazin-1-ylmethyl)-5-nitro-1H-indole hydrochloride salt
To a 4.45 g of 1-(4-Methoxybenzenesulfonyl)-3-(4-methylpiperazin-1-ylmethyl)-5-nitro-1H-indole (example-124), was added the saturated solution of hydrochloric acid in isopropyl alcohol and stirred at room temperature till crystalline compound separates out. The compound was isolated by filtration, washed with n-hexane, ethylacetate and dried under vacuum. IR spectra (cm−1): 1159, 1263, 1337, 1372; Mass (m/z): 445 M+H)+

reactant | 1-(4-Methoxybenzenesulfonyl)-3-(4-methylpiperazin-1-ylmethyl)-5-nitro-1H-indole | 4.45 g | COC1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC(=CC=C12)[N+](=O)[O-])CN1CCN(CC1)C | C21H24N4O5S
reactant | hydrochloric acid | Cl | ClH
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 1-(4-Methoxybenzenesulfonyl)-3-(4-methylpiperazin-1-ylmethyl)-5-nitro-1H-indole hydrochloride salt | Cl.COC1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC(=CC=C12)[N+](=O)[O-])CN1CCN(CC1)C | InChI=1S/C21H24N4O5S.ClH/c1-22-9-11-23(12-10-22)14-16-15-24(21-8-3-17(25(26)27)13-20(16)21)31(28,29)19-6-4-18(30-2)5-7-19;/h3-8,13,15H,9-12,14H2,1-2H3;1H
